US04125729
Ethyl[p-(p-acetylaminophenoxy)phenyl]acetate
To a mixture of 6.8 g of ethyl[p-(p-aminophenoxy)phenyl]acetate, 7.5 ml of acetic acid, 5.4 ml of water and 8.75 g of crushed ice, maintained at 0°-5° C is added 2.8 g of acetic anhydride. The temperature immediately rises to 15° C. The stirring is continued for 2 hours, and extracted with two 50 ml portions of ether. The combined extracts are washed with 50 ml of H2O, 50 ml of saturated NaHCO3, 50 ml of saturated brine, and dried over MgSO4. Evaporation of the solvent affords the product as a tan solid, mp 95°-102° C. A portion is recrystallized from ethanol-hexane to give the product, mp 105°-107° C.

reactant | ethyl[p-(p-aminophenoxy)phenyl]acetate | 6.8 g | C(C)OC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)N)=O | C16H17NO3
reactant | acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 2.8 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 5.4 ml | O | H2O
product | Ethyl[p-(p-acetylaminophenoxy)phenyl]acetate | C(C)OC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)NC(C)=O)=O | C18H19NO4
